US04542132
Toluene-4-sulphonylchloride (0.285 g) was added at 0° to a stirred solution of 2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]propane-1,2-diol (0.35 g) in pyridine (3 cm3) and the mixture was stirred for 3 hours. The mixture was poured into a mixture of chloroform (20 cm3) and saturated sodium bicarbonate solution (20 cm3) and the dried (MgSO4) chloroform layer was evaporated. The residue was chromatographed on silica ("Merck" 60.9385) eluting with methanol:chloroform, 1:49, to give an oil which was crystallised from ethyl acetate to afford 1-[4-toluenesulphonyloxy]-2-hydroxy-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]propane, m.p. 120°-124° (0.285 g).

reactant | Toluene-4-sulphonylchloride | 0.285 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]propane-1,2-diol | 0.35 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)C(CO)(C)O | C18H25N3O4
reactant | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | 20 cm3 | C([O-])(O)=O.[Na+]
solvent | pyridine | 3 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-[4-toluenesulphonyloxy]-2-hydroxy-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]propane | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)(C1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC)O)C | C25H31N3O6S
